US08252810B2
(1) 5-Methyl-2-oxiranylmethyl-4-pyridin-3-yl-2,4-dihydro[1,2,4]triazol-3-one
After dissolving 5-methyl-4-pyridin-3-yl-2,4-dihydro[1,2,4]triazol-3-one (CAS 79369-46-3) (100 mg) in N,N-dimethylformamide (2 ml), sodium hydride (60% in oil) (27 mg) was added and the mixture was stirred at room temperature. Epibromohydrin (73 μl) was then added and the mixture was stirred overnight at room temperature. A saturated aqueous solution of sodium carbonate was added to the reaction mixture, and extraction was performed with ethyl acetate and chloroform. The extract was dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (136 mg).

reactant | 5-methyl-4-pyridin-3-yl-2,4-dihydro[1,2,4]triazol-3-one | 100 mg | CC=1N(C(NN1)=O)C=1C=NC=CC1 | C8H8N4O
reactant | sodium hydride | 27 mg | [H-].[Na+]
reactant | Epibromohydrin | 73 μl | C(Br)C1CO1 | C3H5BrO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methyl-2-oxiranylmethyl-4-pyridin-3-yl-2,4-dihydro[1,2,4]triazol-3-one | 136 mg | CC=1N(C(N(N1)CC1OC1)=O)C=1C=NC=CC1 | C11H12N4O2
